US04418212
An additional mole of methylnitramine is reacted with the 2-nitro-2-aza-1-propanol to produce 2,4-dinitro-2,4-diazapentane. The reactants (in approximately a 1:1 molar ratio) are dissolved in a suitable organic solvent and the resulting solution is added to concentrated sulfuric acid at a controlled rate. The reaction temperature is maintained at a temperature above the freezing point of the concentrated sulfuric acid up to 5° C., but preferably from -5° C. to 0° C. The product 2,4-dinitro-2,4-diazapentane is then isolated by extraction using a suitable organic solvent, washing to remove traces of the acid, evaporating off the solvent, and then recrystallizing the resulting solid. A suitable organic solvent is one that (1) is capable of holding the methylnitramine and 2-nitro-2-aza-1-propanol starting materials and the 2,4-dinitro-2,4-diazapentane product in solution, (2) chemically inert to concentrated sulfuric acid, and (3) essentially immiscible with concentrated sulfuric acid. Suitable solvents include methylene chloride, chloroform, 1,2-dichloroethane, and 1,1,2-trichloroethane. Methylene chloride is the most preferred solvent.

reactant | methylnitramine | CN[N+](=O)[O-] | CH4N2O2
reactant | 2-nitro-2-aza-1-propanol | [N+](=O)([O-])N(CO)C | C2H6N2O3
product | 2,4-dinitro-2,4-diazapentane | [N+](=O)([O-])N(C)CN(C)[N+](=O)[O-] | C3H8N4O4
